US06686384B2
a) 3-Fluoro-2-nitro-phenylhydrazine
A mixture of 0.01 M 2,6-difluoronitrobenzene and 0.01 M hydrazine hydrate (99% strength) in 30 ml of THF was stirred overnight at RT (exothermic reaction) and the residue was brought to crystallization after distilling off the solvent by treating with diisopropyl ether. Crystalline substance, m.p.: 93-95° C.

reactant | 2,6-difluoronitrobenzene | 0.01 M | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | hydrazine hydrate | 0.01 M | O.NN
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-Fluoro-2-nitro-phenylhydrazine | FC=1C(=C(C=CC1)NN)[N+](=O)[O-] | C6H6FN3O2
